US05026862
Using the procedure of Step A of Example 1, 2.03 g of isopropyl bromoacetate and 1.3 g of 2-methoxy-4,5-dimethyl-1,3,2-dioxaphospholane were reacted to obtain 1.94 g of raw 2-isopropoxycarbonylmethyl-4,5-dimethyl-2-oxo-1,3,2-dioxaphospholane used as is for the next step.

reactant | isopropyl bromoacetate | 2.03 g | BrCC(=O)OC(C)C | C5H9BrO2
reactant | 2-methoxy-4,5-dimethyl-1,3,2-dioxaphospholane | 1.3 g | COP1OC(C(O1)C)C | C5H11O3P
product | 2-isopropoxycarbonylmethyl-4,5-dimethyl-2-oxo-1,3,2-dioxaphospholane | 1.94 g | C(C)(C)OC(=O)CP1(OC(C(O1)C)C)=O | C9H17O5P
